US08236826B2
Production of 1-(3-{4-[5-(3,4-dichlorobenzoylamino)-2-pyridylmethyl]phenyl}propionyl)-4-piperonylpiperazine monohydrochloride
To a solution of ethyl 3-(4-{5-[bis(3,4-dichlorobenzoyl)amino]-2-pyridylmethyl}phenyl)propionate (177 mg, 0.281 mmol) in THF (5 mL) and ethanol (5 mL) were added 5 M aqueous sodium hydroxide (0.0929 mL, 0.463 mmol) and water (1 mL), and the resulting solution was refluxed for 1 hour. To this reaction solution was added 5 M hydrochloric acid (0.12 mL), and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated. The residue was dissolved in DMF (3 mL), and to the resulting solution were then added 1-piperonylpiperazine (102 mg, 0.463 mmol), triethylamine (0.137 mL, 0.983 mmol) and diethyl cyanophosphonate (0.0703 mL, 463 mmol), and stirred for 1.5 hours at room temperature. Water was added to the resulting reaction solution, and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, and evaporated. The residue was purified by silica gel column chromatography (dichloromethane:methanol=70:1→40:1→20:1), to thereby yield 44.1 mg of a free form. This free form was dissolved in ethanol (5 mL) and 5 M hydrochloric acid (0.03 mL) by heating. The solvent was then evaporated, and the obtained solid was recrystallized from water-containing isopropanol, to thereby yield 19.6 mg of the title compound.

reactant | ethyl 3-(4-{5-[bis(3,4-dichlorobenzoyl)amino]-2-pyridylmethyl}phenyl)propionate | 0.281 mmol, 177 mg | ClC=1C=C(C(=O)N(C=2C=CC(=NC2)CC2=CC=C(C=C2)CCC(=O)OCC)C(C2=CC(=C(C=C2)Cl)Cl)=O)C=CC1Cl | C31H24Cl4N2O4
reactant | sodium hydroxide | 0.463 mmol, 5 M, 0.0929 mL | [OH-].[Na+]
reactant | hydrochloric acid | 5 M, 0.12 mL | Cl | ClH
reactant | 1-piperonylpiperazine | 0.463 mmol, 102 mg | C(C1=CC=2OCOC2C=C1)N1CCNCC1 | C12H16N2O2
reactant | triethylamine | 0.983 mmol, 0.137 mL | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 463 mmol, 0.0703 mL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | Water | O | H2O
solvent | water | 1 mL | O | H2O
product | 1-(3-{4-[5-(3,4-dichlorobenzoylamino)-2-pyridylmethyl]phenyl}propionyl)-4-piperonylpiperazine monohydrochloride | Cl.ClC=1C=C(C(=O)NC=2C=CC(=NC2)CC2=CC=C(C=C2)CCC(=O)N2CCN(CC2)CC2=CC=3OCOC3C=C2)C=CC1Cl | InChI=1S/C34H32Cl2N4O4.ClH/c35-29-10-7-26(19-30(29)36)34(42)38-28-9-8-27(37-20-28)17-24-3-1-23(2-4-24)6-12-33(41)40-15-13-39(14-16-40)21-25-5-11-31-32(18-25)44-22-43-31;/h1-5,7-11,18-20H,6,12-17,21-22H2,(H,38,42);1H
